Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5][C@:6]1([N:7]([H:9])[H:13])[H:12]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],37.80070592393017
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4](=[C:3]([H:10])[H:11])[H:12])=[C:5]=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9],81.77885395127271
[O:1]([C:2]([C@@:3]1([H:11])[C:6]([C:4]#[C:5][H:12])=[C:7]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],85.68573411763691
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:14])[N:6]=[C:7]1[H:13])[H:8],86.52775210671507
[C:1](/[C:2](=[N:3]\[C:5]([H:10])([H:11])[H:12])[O:4][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8],107.56504749992719
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]([C:2]#[C:7][C:6](=[O:5])[H:9])([H:8])[H:10].[N:3]#[N:4],85.0145516625622
[N:1]#[C:2][C:6]1=[N:7][C:5]([H:10])([H:11])[O:4][C:3]1([H:8])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],70.34965121859018
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[O-:2][C:3](=[O:4])[C+:5]([N:6]([H:12])[H:13])[H:11],63.6703000303641
[N+:1]1#[C:2][C@@:3]([O:6][C-:5]([H:10])[H:11])([H:7])[C:4]1([H:8])[H:9]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,25.0360054640212
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C@@:5]1([H:17])[O:6][C:7]1([H:16])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],97.7074505598546
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([O+:7]=[C-:6][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],32.237500738337
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:3]1=[C:4]([H:9])[C@:2]1([C:5]#[N:6])[H:8])[H:7],66.1936081659157
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N+:2]([N-:3][H:10])=[N:6][N+:5]#[C-:4])([H:7])([H:8])[H:9],90.72213873725792
[O:1]([C:2](=[C:3]=[C:4]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],78.39279738435474
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C:5]=[N:6][H:11].[O:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7],55.211725160269296
[C:1](=[C:2]=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])[H:8].[C:5]([H:9])([H:11])([H:12])[H:13]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],67.779711164519
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],51.0642937411316
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:6]([H:13])([H:14])[C@@:7]1([C:4][O:5][H:12])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],60.06198296241849
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](\[C:5]#[N:6])[H:8])\[H:7].[O:3]=[C:4]([H:9])[H:10],72.9868052033953
[C:1](/[C:2](=[N:3]\[H:10])[H:12])([H:7])([H:8])[H:9].[N:4](=[C:5]=[O:6])[H:11]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],67.65982631748471
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[C+:4](=[C:5]=[N-:6])[H:9].[N:1](=[C:2](/[O:3][H:10])[H:8])\[H:7],78.4787564534577
[O:1](/[C:2](=[C:3](\[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])[H:9])[H:7])[H:8]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],36.62795749595182
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([H:11])([H:12])[H:14])([H:10])[C@@:6]2([H:16])[C:5]([H:15])=[C:4]([H:13])[C@@:7]12[H:17],71.54099021534459
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13],115.19230552719601
[C:5](=[C:6]=[N:7][H:8])([H:12])[H:13].[N:1]#[C:2][H:9].[O:3]=[C:4]([H:10])[H:11]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],17.578865043791602
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([C:5]#[C:6][H:14])=[C:4]([H:13])[C:3]1([H:10])[H:11]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],81.32705247361781
